* Rev-A PIR/radar interface: 3.3V sensor -> RC -> double AHCT-like Schmitt -> RA4 input load
* Behavioral logic uses worst positive threshold 2.1V and 5V output.
Vsensor src 0 PULSE(0 3.3 1m 1n 1n 1m 2m)
Rin src filt 10k
Rpull filt 0 100k
Cfilter filt 0 10n

* Two inverters preserve polarity. 10ns delay is represented by small RC output stages.
Blogic1 logic1 0 V={V(filt)>2.1 ? 0 : 5}
Rout1 logic1 inv1 50
Cout1 inv1 0 100p
Blogic2 logic2 0 V={V(inv1)>2.1 ? 0 : 5}
Rout2 logic2 out 50
* RA4M1 input capacitance max 15pF, plus 20pF wiring allowance.
Cload out 0 35p
Rleak out 0 5Meg

.tran 0.05u 4m
.meas tran t_filter_cross WHEN v(filt)=2.1 RISE=1
.meas tran t_out_cross WHEN v(out)=4.0 RISE=1
.meas tran filtered_high FIND v(filt) AT=1.5m
.meas tran output_high FIND v(out) AT=1.5m
.end
